US06552068B1
7,7,8,8,8-Pentafluorooctan-1-ol (25 g, 113 mmol) was dissolved in dichloromethane (250 ml) and cooled to 0° C. To this solution, triethylamine (47.4 ml, 339 mmol) and methanesulfonyl chloride (17.6 ml, 227 mmol) were added dropwise, followed by stirring for 1 hour. After the reaction was completed, water was added to the reaction mixture, which was then extracted twice with dichloromethane. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10) to give 1-methanesulfonyloxy-7,7,8,8,8-pentafluorooctane (30 g, Yield 89%).

reactant | 7,7,8,8,8-Pentafluorooctan-1-ol | 113 mmol, 25 g | FC(CCCCCCO)(C(F)(F)F)F | C8H13F5O
reactant | triethylamine | 339 mmol, 47.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 227 mmol, 17.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1-methanesulfonyloxy-7,7,8,8,8-pentafluorooctane | 30 g, Yield 89% | CS(=O)(=O)OCCCCCCC(C(F)(F)F)(F)F | C9H15F5O3S
